US05244908
(1) Synthesis of 5-[2-(amino)ethylthio]-3-nitroimidazo[1,2-a]pyridine.dihydrochloride
To a suspension of 5-[2-(tert-butoxycarbonylamino)ethylthio]-3-nitroimidazo[1,2-a]pyridine (364 mg, 1.08 mmoles) in methanol (3 ml) was added conc. hydrochloric acid (2 ml) and the mixture was stirred at room temperature for 1 hour. Then, the solvent was distilled off to obtain 340 mg of the desired product (quantitative, brown solid).

reactant | 5-[2-(tert-butoxycarbonylamino)ethylthio]-3-nitroimidazo[1,2-a]pyridine | 1.08 mmoles, 364 mg | C(C)(C)(C)OC(=O)NCCSC1=CC=CC=2N1C(=CN2)[N+](=O)[O-] | C14H18N4O4S
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | 5-[2-(amino)ethylthio]-3-nitroimidazo[1,2-a]pyridine.dihydrochloride | 340 mg | Cl.Cl.NCCSC1=CC=CC=2N1C(=CN2)[N+](=O)[O-] | InChI=1S/C9H10N4O2S.2ClH/c10-4-5-16-9-3-1-2-7-11-6-8(12(7)9)13(14)15;;/h1-3,6H,4-5,10H2;2*1H
